US06995182B2
(2S,5S)-1-{4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-[1,2,4]triazole
The title compound, colorless oil, MS: m/e=443.3 (M+H+) and [α]D20=−72.5° (c=0.2358 in chloroform), was prepared in accordance with the general method of example 82b from (2S,5S)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 1H-tetrazole.

reactant | (2S,5S)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCCC[C@@H]1N([C@@H](CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C21H25ClFNO2S
reactant | 1H-tetrazole | N1N=NN=C1 | CH2N4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2S,5S)-1-{4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-[1,2,4]triazole | FC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1S(=O)(=O)C1=CC=C(C=C1)C)CCCCN1N=CN=C1 | C23H27FN4O2S
